US06570039B2
(4S)-N-tert-butoxycarbonyl-4-phenylmethyloxazolidin-5-one (1.00 g) and bromochloromethane (0.31 ml) were added to dehydrated tetrahydrofuran (36 ml). After cooling to −78° C., 1.53 M solution (3.07 ml) of n-butyllithium in hexane was added to the obtained mixture, and they were stirred for 40 minutes. 6 N Hydrochloric acid was added to the reaction mixture to terminate the reaction. The temperature of the reaction mixture was elevated to room temperature. The reaction mixture was concentrated to a half volume, stirred at 50° C. for 1 hour and cooled to room temperature. After the addition of isopropyl acetate followed by the extraction with water twice, the obtained aqueous solution was analyzed by HPLC to find that intended (S)-3-amino-1-chloro-4-phenyl-2-butanone hydrochloride (0.65 g) was obtained in a yield of 77%. According to HPLC analysis with an optically active column, the optical purity of (S)-3-amino-1-chloro-4-phenyl-2-butanone hydrochloride thus obtained was confirmed to be >99% e.e.

reactant | (4S)-N-tert-butoxycarbonyl-4-phenylmethyloxazolidin-5-one | 1.00 g | C(C)(C)(C)OC(=O)N1COC([C@@H]1CC1=CC=CC=C1)=O | C15H19NO4
reactant | bromochloromethane | 0.31 ml | BrCCl | CH2BrCl
reactant | n-butyllithium | C(CCC)[Li]
reactant | Hydrochloric acid | 6 N | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 36 ml | O1CCCC1 | C4H8O
product | (S)-3-amino-1-chloro-4-phenyl-2-butanone hydrochloride | yield of 77% | Cl.N[C@H](C(CCl)=O)CC1=CC=CC=C1 | InChI=1S/C10H12ClNO.ClH/c11-7-10(13)9(12)6-8-4-2-1-3-5-8;/h1-5,9H,6-7,12H2;1H/t9-;/m0./s1
